US07037927B2
1-(2-fluoro-4-nitrophenyl)piperidine
3,4-Difluoronitrobenzene (1.4 mL, 2.01 g, 12.7 mmol) in piperidine (4 mL, 40.4 mmol) was heated in a sealed tube at 130° C. for 2 hours. The mixture was allowed to cool to room temperature and poured into H2O (150 mL). The title compound was separated by pipette. 1H NMR (300 MHz, DMSO-d6) δ 7.95–8.01 (m, 2H), 7.11–7.18 (m, 1H), 3.26–3.29 (m, 4H), 1.62–1.68 (m, 6H); MS (ESI+) m/z 225 (M+H)+.

reactant | 3,4-Difluoronitrobenzene | 12.7 mmol, 1.4 mL, 2.01 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | piperidine | 40.4 mmol, 4 mL | N1CCCCC1 | C5H11N
solvent | H2O | 150 mL | O | H2O
product | 1-(2-fluoro-4-nitrophenyl)piperidine | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCCCC1 | C11H13FN2O2
